US08604224B2
[Step 1-1-2] Synthesis of Benzo[b]naphtho[1,2-d]furan
Into a 1 L three-neck flask were placed 15 g (63 mmol) of 1-(2-fluorophenyl)-2-naphthol, 300 mL of N-methyl-2-pyrrolidone (NMP), and 18 g (130 mmol) of potassium carbonate. The mixture in this flask was stirred at 150° C. for 6 hours under a nitrogen stream. After that, this mixture was cooled down to room temperature and added to about 500 mL of water. The aqueous layer of this mixture was subjected to extraction with ethyl acetate, and the obtained solution of the extract and the organic layer were combined and washed with water and saturated brine. The organic layer was dried over magnesium sulfate, and after that, this mixture was gravity-filtered. The obtained filtrate was concentrated to give an oily substance. The obtained oily substance was purified by silica gel column chromatography (developing solvent: hexane) to give an oily substance. The obtained oily substance was dried under reduced pressure, so that 11.8 g of a colorless transparent oily substance of the object of the synthesis was obtained in 86% yield. The above-described synthesis scheme is illustrated in the following scheme (B-2).

reactant | 1-(2-fluorophenyl)-2-naphthol | 63 mmol, 15 g | FC1=C(C=CC=C1)C1=C(C=CC2=CC=CC=C12)O | C16H11FO
reactant | N-methyl-2-pyrrolidone | 300 mL | CN1C(CCC1)=O | C5H9NO
reactant | potassium carbonate | 130 mmol, 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | about 500 mL | O | H2O
product | Benzo[b]naphtho[1,2-d]furan | 86% yield | C1=CC=CC=2C=CC3=C(C4=C(O3)C=CC=C4)C12 | C16H10O
